US09227985B2
7-(3,5-Dimethylisoxazol-4-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine
A reaction mixture of 2-chloro-7-(3,5-dimethylisoxazol-4-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine (15 mg, 0.041 mmol), 0.5 M bromo(propyl)zinc in THF (0.5 mL) and tetrakis(triphenylphosphine)palladium(0) (2 mg, 0.002 mmol) in THF (0.4 mL) under nitrogen was heated in a microwave at 150° C. for 5 min. Purification of the product by preparative LCMS using pH 10 buffer gave the title compound. LCMS calc. for C20H17N3O2 (M+H)+: m/z=332.1. found: 332.2.

reactant | 2-chloro-7-(3,5-dimethylisoxazol-4-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine | 0.041 mmol, 15 mg | ClC1=NC2=CC=C(C3=C2N1C(CO3)C3=CC=CC=C3)C=3C(=NOC3C)C | C20H16ClN3O2
reactant | bromo(propyl)zinc | 0.5 M | Br[Zn]CCC
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.4 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.002 mmol, 2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(3,5-Dimethylisoxazol-4-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine | CC1=NOC(=C1C1=CC=C2C=3N(C(COC31)C3=CC=CC=C3)C=N2)C | C20H17N3O2
